US04556671
A. Preparation of m-Trifluoromethylphenyl-hydrazine
m-Aminobenzotrifluoride (48.34 g: 0.3 mole) was cooled and treated with concentrated hydrochloric acid (137 ml) added dropwise. The paste was stirred at 0° and a solution of sodium nitrite (19.1 g) in water (137 ml) was added at 0°-5° with stirring. An almost clear solution was obtained. Then a solution of stannous chloride dihydrate (191.3 g) in concentrated hydrochloric acid (137 ml) was added dropwise with stirring at 0°-10°.

reactant | m-Aminobenzotrifluoride | 0.3 mole, 48.34 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | sodium nitrite | 19.1 g | N(=O)[O-].[Na+]
solvent | water | 137 ml | O | H2O
solvent | hydrochloric acid | 137 ml | Cl | ClH
solvent | hydrochloric acid | 137 ml | Cl | ClH
product | m-Trifluoromethylphenyl-hydrazine | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
